US09102662B2
N-{5-[(3,5-Difluoro-phenyl)-hydroxy-methyl]-1H-indazol-3-yl}-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide [(IB), R1=R2=R3=11, R=3,5-difluorophenyl, Ar=4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-phenyl] cpd. 60
A mixture of N-[5-(3,5-Difluoro-benzoyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide (130 mg, 0.226 mmol) and sodium borohydride (15 mg, 0.39 mmol) was dissolved at room temperature in i-propanol (20 mL). The reaction mixture was stirred for 4 hours, quenched with methanol and evaporated to dryness. Crude material was redissolved in DCM and washed with brine. After trituration with diethyl ether, 59 mg of the title compound were recovered (45% yield).

reactant | N-[5-(3,5-Difluoro-benzoyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide | 0.226 mmol, 130 mg | FC=1C=C(C(=O)C=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)N2CCN(CC2)C)NC2CCOCC2)=O)C=C(C1)F | C31H32F2N6O3
reactant | sodium borohydride | 0.39 mmol, 15 mg | [BH4-].[Na+]
solvent | i-propanol | 20 mL | C(C)(C)O | C3H8O
product | N-{5-[(3,5-Difluoro-phenyl)-hydroxy-methyl]-1H-indazol-3-yl}-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide | 45% yield | FC=1C=C(C=C(C1)F)C(C=1C=C2C(=NNC2=CC1)NC(C1=C(C=C(C=C1)N1CCN(CC1)C)NC1CCOCC1)=O)O | C31H34F2N6O3
